US05059608
To a solution of 1-methyl-1-phenyl-1,2,3,4-tetrahydroisoquinoline (1.0 g) in methylene chloride (10 ml) was added chloroacetic anhydride (2.9 g) and the mixture was stirred overnight at room temperature. The solvent was evaporated in vacuo. The residue was poured into saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water, sodium chloride aqueous solution and dried over magnesium sulfate, evaporated in vacuo. The resultant precipitate was recrystallized from diethyl ether and dried in vacuo to give 1-methyl-1-phenyl-2-(2-chloroacetyl)-1,2,3,4-tetrahydroisoquinoline (0.77 g).

reactant | 1-methyl-1-phenyl-1,2,3,4-tetrahydroisoquinoline | 1.0 g | CC1(NCCC2=CC=CC=C12)C1=CC=CC=C1 | C16H17N
reactant | chloroacetic anhydride | 2.9 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-1-phenyl-2-(2-chloroacetyl)-1,2,3,4-tetrahydroisoquinoline | 0.77 g | CC1(N(CCC2=CC=CC=C12)C(CCl)=O)C1=CC=CC=C1 | C18H18ClNO
